US03968114
Benzyl chloride (250 g.) was added dropwise to a solution of 3,4-diethylpyridine (262 g., Beilsteins Handbuch der Organischen Chemie, Vierte Auflage, Julius Springer, Berlin, 1935 p. 253) in isopropyl alcohol (700 ml.). The resulting solution was refluxed (for 2 hr.), then concentrated under water pump vacuum. Benzene (250 ml.) was added to the residue and the solution was concentrated again. The process was repeated with two further portions (250 ml. and 500 ml.) of benzene. The residue began to crystallize. Benzene (2250 ml.) was added, affording a thick slurry of 1-benzyl-3,4-diethylpyridinium chloride.

reactant | Benzyl chloride | 250 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 3,4-diethylpyridine | 262 g | C(C)C=1C=NC=CC1CC | C9H13N
solvent | isopropyl alcohol | 700 ml | C(C)(C)O | C3H8O
product | 1-benzyl-3,4-diethylpyridinium chloride | [Cl-].C(C1=CC=CC=C1)[N+]1=CC(=C(C=C1)CC)CC | InChI=1S/C16H20N.ClH/c1-3-15-10-11-17(13-16(15)4-2)12-14-8-6-5-7-9-14;/h5-11,13H,3-4,12H2,1-2H3;1H/q+1;/p-1
